US06797723B1
Preparation of 2-{3-[3-(2-Ethyl-5-hydroxy-4-thiazol-2-yl-phenoxy)propoxy]-2-propyl-phenoxy}benzoic acid.
2-{3-[3-(2-Ethyl-5-hydroxy-4-thiazol-2-yl-phenoxy)propoxyl-2-propylphenoxy}benzoic acid methyl ester (107 mg, 0.196 mmol) was dissolved in a 1:1 solution of methanol/dioxane (3 mL) and treated with 1 N lithium hydroxide solution (1 mL) at 60° C. for 2 h. The mixture was concentrated in vacuo and the residue diluted with water, washed twice with diethyl ether, and the aqueous layer acidified with 1 N hydrochloric acid. The resulting solution was extracted twice with methylene chloride and the combined organic layers dried (magnesium sulfate), filtered, and concentrated in vacuo. Trituration (hexane) of the residue provided 72 mg (69%) of the title compound as a tan powder. 1H NMR (CDCl3) δ 8.22 (dd, J=8, 2 Hz, 1H), 7.70 (d, J=4 Hz, 1H), 7.41 (dt, J=8, 2 Hz, 1H), 7.35 (s, 1H), 7.18 (m, 3H), 6.82 (d, J=9 Hz, 1H), 6.69 (d, J=9 Hz, 1H), 6.62 (d, J=9 Hz, 1H), 6.55 (s, 1H), 4.22 (t, J=6 Hz, 2H), 4.21 (t, J=6 Hz, 2H), 2.57 (m, 4H), 2.35 (quintet, J=6 Hz, 2H), 1.49 (hextet, J=8 Hz, 2H), 1.18 (t, J=7 Hz, 3H}, 0.86 (t, J=7 Hz, 3H); MS ES+ m/e 534 (p+1); IR (KBr, cm−1) 2957, 1695, 1599, 1457. Anal. Calcd for C30H31NO6S: C, 67.52; H, 5.B6; N, 2.62. Found: C, 67.44; H, 5.95; N, 2.55.

reactant | 3-[3-(2-Ethyl-5-hydroxy-4-thiazol-2-yl-phenoxy)propoxyl-2-propylphenoxy}benzoic acid methyl ester | 0.196 mmol, 107 mg | COC(C1=CC(=CC=C1)OC1=C(C(=CC=C1)OCCCOC1=C(C=C(C(=C1)O)C=1SC=CN1)CC)CCC)=O | C31H33NO6S
reactant | lithium hydroxide | 1 N, 1 mL | [OH-].[Li+]
reactant | methanol dioxane | 3 mL | CO.O1CCOCC1
product | 2-{3-[3-(2-Ethyl-5-hydroxy-4-thiazol-2-yl-phenoxy)propoxy]-2-propyl-phenoxy}benzoic acid | 72 mg, 69% | C(C)C1=C(OCCCOC=2C(=C(OC3=C(C(=O)O)C=CC=C3)C=CC2)CCC)C=C(C(=C1)C=1SC=CN1)O | C30H31NO6S
